US06204386B1
N-p-chlorobenzyl-(N,N-dimethylamino)pyridinium chloride (CBPC)
A mixture of 1.1313 g (0.00706 mol) p-chlorobenzylchloride, 0.8623 g (0.00706 mol) dimethylaminopyridine, and approximately 10 mL toluene were added to a clean, dry 50 mL round bottom flask equipped with a stir bar, condensor, and drying tube. The reaction apparatus was then lowered into an oil bath at 110° C. The solution became miscible immediately and after 5 minutes a thick white precipitate formed. The reaction was allowed to continue overnight, and after 12 hours was cooled to room temperature. The solvent was removed via rotary evaporation. The resulting solid was recrystallized from ethanol/diethylether to give 1.790 g (89.5%). Calculated for C14H16N2Cl2: C, 59.3765%; H, 5.6944%; N, 9.8917%. Found: C, 57.63%; H, 5.88%; N, 9.59%. 1H NMR (D2O 300 MHZ): δ 3.02 (s 6H), δ 5.15 (s 2H), δ 6.71 (d 2H), δ 7.18 (d 2H), δ 7.30 (d 2H), δ 7.90 (d 2H). Melting point 208-210° C.

reactant | p-chlorobenzylchloride | 0.00706 mol, 1.1313 g | ClC1=CC=C(CCl)C=C1 | C7H6Cl2
reactant | dimethylaminopyridine | 0.00706 mol, 0.8623 g | CN(C)C1=NC=CC=C1 | C7H10N2
solvent | toluene | approximately 10 mL | C1(=CC=CC=C1)C | C7H8
product | N-p-chlorobenzyl-(N,N-dimethylamino)pyridinium chloride | [Cl-].ClC1=CC=C(C[N+]2=C(C=CC=C2)N(C)C)C=C1 | InChI=1S/C14H16ClN2.ClH/c1-16(2)14-5-3-4-10-17(14)11-12-6-8-13(15)9-7-12;/h3-10H,11H2,1-2H3;1H/q+1;/p-1
